US04636521
(i) N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]-N-methyltrifluoromethanesulphonamide
In a similar manner to that described in Example 10(i), N-[[3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]-trifluoromethanesulphonamide (1.04 g), sodium hydride (80%, 0.72 g) and methyl iodide (0.6 ml) in dimethylformamide (15 ml) gave the title compound (0.51 g) as a yellow solid m.p. 131°-3° after column chromatography on kieselgel 60 (80 g) eluted with ether/cyclohexane (4:1).

reactant | N-[[3-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]-trifluoromethanesulphonamide | 1.04 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C(F)(F)F | C20H16F3N3O4S
reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | methyl iodide | 0.6 ml | CI | CH3I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[[3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indol-5-yl]methyl]-N-methyltrifluoromethanesulphonamide | 0.51 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CN(S(=O)(=O)C(F)(F)F)C | C21H18F3N3O4S
